US05965589
According to the same manner as that described in Example 1, 4-isopropoxy-3-methoxycinnamaldehyde was condensed with 2,4-thiazolidinedione to give 5-(4-isopropoxy-3-methoxycinnamylidene)-2,4-thiazolidinedione (yield: 61%). This product was recrystallized from ethyl acetate-hexane. Yellow prisms, mp: 230-231° C.

reactant | 4-isopropoxy-3-methoxycinnamaldehyde | C(C)(C)OC1=C(C=C(C=CC=O)C=C1)OC | C13H16O3
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(4-isopropoxy-3-methoxycinnamylidene)-2,4-thiazolidinedione | yield: 61% | C(C)(C)OC1=C(C=C(C=CC=C2C(NC(S2)=O)=O)C=C1)OC | C16H17NO4S
